US04921855
To a solution of benzyl 2(S)-(3-hydroxypiperidino-carbonyloxy)-3-phenylpropionate (477 mg) in methylene chloride (10 ml) was added pyridinium dichromate (0.99 g) and the mixture was stirred at ambient temperature overnight. The mixture was passed through a Florisil (Trademark : manufactured by Floridin Co.) (60-100 mesh) column with diethyl ether and then methylene chloride as eluent. Concentration under reduced pressure gave benzyl 2(S)-(3-oxopiperidinocarbonyloxy)-3-phenylpropionate (278 mg).

reactant | benzyl 2(S)-(3-hydroxypiperidino-carbonyloxy)-3-phenylpropionate | 477 mg | OC1C(NCCC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C22H25NO5
reactant | pyridinium dichromate | 0.99 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2(S)-(3-oxopiperidinocarbonyloxy)-3-phenylpropionate | 278 mg | O=C1CN(CCC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C22H23NO5
